US07687490B2
(5-Bromothiazol-4-yl)-methanol (6.15 g), 8.9 ml of triethylamine, 61 mg of copper(I) iodide, 5.4 ml of trimethylsilylacetylene, and 223 mg of bis(triphenylphosphine) palladium(II) dichloride were added in that order to 25 ml of DMF, the mixture was stirred, and the air in the system was replaced by argon. The reaction mixture was stirred with heating at 90° C. for 90 min and was then allowed to stand for cooling. Toluene (74 ml) and 25 ml of water were added to the reaction mixture, and the aqueous layer was separated. Water (25 ml) was added to the organic layer, and the mixture was adjusted to pH 2 by the addition of 5 N hydrochloric acid, followed by separation of the aqueous layer. The organic layer was washed with 25 ml of 5% sodium bicarbonate water and 25 ml of 10% brine in that order and was then treated with 1.4 g of activated carbon and anhydrous magnesium sulfate. The solvent was removed by distillation, and the solid was separated to give 5.35 g of [5-[2-(trimethylsilyl)ethynyl]thiazol-4-yl]-methanol.

reactant | (5-Bromothiazol-4-yl)-methanol | 6.15 g | BrC1=C(N=CS1)CO | C4H4BrNOS
reactant | triethylamine | 8.9 ml | C(C)N(CC)CC | C6H15N
reactant | trimethylsilylacetylene | 5.4 ml | C[Si](C)(C)C#C | C5H10Si
reactant | DMF | 25 ml | CN(C)C=O | C3H7NO
catalyst | copper(I) iodide | 61 mg | [Cu]I
catalyst | bis(triphenylphosphine) palladium(II) dichloride | 223 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | water | 25 ml | O | H2O
solvent | Toluene | 74 ml | C1(=CC=CC=C1)C | C7H8
product | [5-[2-(trimethylsilyl)ethynyl]thiazol-4-yl]-methanol | 5.35 g | C[Si](C#CC1=C(N=CS1)CO)(C)C | C9H13NOSSi
